US09302991B2
<Step-2>:methyl 6-(3,3,3-trifluoropropyl)nicotinate
(3,3,3-trifluoropropyl)magnesium bromide (8.16 mL, 8.16 mmol, Step-1) is added to a solution of methyl 6-chloronicotinate (0.70 g, 4.08 mmol), iron(III) acetylacetonate (0.14 g, 0.41 mmol) and 1-methyl-2-pyrrolidinone (0.23 mL, 2.39 mmol) in tetrahydrofuran (23 mL) and stirred at room temperature for 30 minutes. The reaction mixture is poured into water, extracted with ethyl acetate and dried over sodium sulfate and concentrated in vacuo. The residue is purified by column chromatography on silica gel eluting with n-hexane/ethyl acetate (3:1) to give 0.95 g (99% yield) of the title compound as a white solid.

reactant | (3,3,3-trifluoropropyl)magnesium bromide | 8.16 mmol, 8.16 mL | FC(CC[Mg]Br)(F)F
reactant | methyl 6-chloronicotinate | 4.08 mmol, 0.70 g | ClC1=NC=C(C(=O)OC)C=C1 | C7H6ClNO2
reactant | 1-methyl-2-pyrrolidinone | 2.39 mmol, 0.23 mL | CN1C(CCC1)=O | C5H9NO
reactant | water | O | H2O
solvent | tetrahydrofuran | 23 mL | O1CCCC1 | C4H8O
catalyst | iron(III) acetylacetonate | 0.41 mmol, 0.14 g | C/C(=C/C(=O)C)/[O-].C/C(=C/C(=O)C)/[O-].C/C(=C/C(=O)C)/[O-].[Fe+3]
product | methyl 6-(3,3,3-trifluoropropyl)nicotinate | 0.95 g, 99% yield | FC(CCC1=NC=C(C(=O)OC)C=C1)(F)F | C10H10F3NO2
